US07179801B2
To a suspension of lithium aluminum hydride (3.22 g) in tetrahydrofuran (100 ml) was added 5-amino-4-[(E)-2-nitroethenyl]-1-(2-triphenylmethyloxyethyl)-1H-pyrazole (4.4 g) under ice-cooling. The mixture was refluxed for 5 hours. After cooling on an ice bath, sodium fluoride (14.3 g) and water (6.12 ml) were added to the reaction mixture. The insoluble materials were removed by filtration. The filtrate was concentrated in vacuo to give 5-amino-4-(2-aminoethyl)-1-(2-triphenylmethyloxyethyl)-1H-pyrazole (3.63 g). This product was used in the next step without further purification.

reactant | lithium aluminum hydride | 3.22 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 5-amino-4-[(E)-2-nitroethenyl]-1-(2-triphenylmethyloxyethyl)-1H-pyrazole | 4.4 g | NC1=C(C=NN1CCOC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)\C=C\[N+](=O)[O-] | C26H24N4O3
reactant | sodium fluoride | 14.3 g | [F-].[Na+]
reactant | water | 6.12 ml | O | H2O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 5-amino-4-(2-aminoethyl)-1-(2-triphenylmethyloxyethyl)-1H-pyrazole | 3.63 g | NC1=C(C=NN1CCOC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CCN | C26H28N4O
